US06207662B1
2-Epoxy-1-(2-methoxyphenoxy)-propane
Guaiacol (8.6 g, 69 mmol), potassium t-butoxide (7.8 g, 69 mmol), epichlorohydrin (19.3 g, 209 mmol), and 18-crown-6 (0.8 g) were mixed in t-butanol (100 ml) and heated to 50° C. for 2 h. Water was added and the product was extracted with two portions of dichlorometane. Washing with water, twice, was followed by drying and evaporation. Quantitative yield.

reactant | Guaiacol | 69 mmol, 8.6 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | potassium t-butoxide | 69 mmol, 7.8 g | CC(C)([O-])C.[K+]
reactant | epichlorohydrin | 209 mmol, 19.3 g | C(Cl)C1CO1 | C3H5ClO
reactant | 18-crown-6 | 0.8 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | Water | O | H2O
product | 2-Epoxy-1-(2-methoxyphenoxy)-propane | Quantitative yield | O1C(COC2=C(C=CC=C2)OC)C1 | C10H12O3
